US07691891B2
3-(1H-Tetrazol-5-yl)-4′-trifluoromethyl-biphenyl-4-ylamine:
4-Amino-4′-trifluoromethyl-biphenyl-3-carbonitrile (8.3 g) was dissolved in toluene (100 mL), to the solution was added sodium azide (3.1 g) and triethylammonium chloride (6.6 g). The reaction mixture was heated at 60-62° C. overnight, then cooled to room temperature and added water (40 mL), then hydrochloric acid (4 M, 13 mL) was added until pH=1. The product precipitated and was isolated by filtration, the precipitate was washed with cold water and dried on the filter by sucking air through the compound. Yield 10.2 g of white powder.

reactant | 4-Amino-4′-trifluoromethyl-biphenyl-3-carbonitrile | 8.3 g | NC1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C#N | C14H9F3N2
reactant | sodium azide | 3.1 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylammonium chloride | 6.6 g | [Cl-].C(C)[NH+](CC)CC
reactant | hydrochloric acid | 4 M, 13 mL | Cl | ClH
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 mL | O | H2O
product | 3-(1H-Tetrazol-5-yl)-4′-trifluoromethyl-biphenyl-4-ylamine | N1N=NN=C1C=1C=C(C=CC1N)C1=CC=C(C=C1)C(F)(F)F | C14H10F3N5
